US08383628B2
To a stirred solution of 1-Boc-piperazine (0.50 g, 2.7 mmol) and diisopropylethylamine (1.75 g, 13.5 mmol) in dichloromethane at 0° C. was added a solution of 2-trifluoromethylbenzoyl chloride (0.626 g, 3.0 mmol). The resulting mixture was stirred at room temperature for 20 h and then quenched with water (25 mL). The organic phase was washed with water, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to yield 4-(2-trifluoromethylbenzoyl)piperazine-1-carboxylic acid tent-butyl ester as a pale brown oil (0.948 g, 98% yield). 1H NMR (300 MHz, CDCl3) δ 7.69, 7.54, 7.30, 3.77, 3.51, 3.33, 3.14, 1.45.

reactant | 1-Boc-piperazine | 2.7 mmol, 0.50 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 13.5 mmol, 1.75 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trifluoromethylbenzoyl chloride | 3.0 mmol, 0.626 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-trifluoromethylbenzoyl)piperazine-1-carboxylic acid | FC(C1=C(C(=O)N2CCN(CC2)C(=O)O)C=CC=C1)(F)F | C13H13F3N2O3
